US07371869B2
To a solution of crude 3-(3-amino-4-hydroxy-phenyl)-2-tert-butoxycarbonylamino-propionic acid ethyl ester (0.89 g, 2.74 mmol) in toluene (20 mL) was added triethyl orthoformate (0.57 mL, 3.36 mmol) and the mixture was heated to 75° C. under an atmosphere of argon for 3 hours at which time all starting material had been consumed. The reaction mixture was concentrated in vacuo to a black waxy solid which was dissolved in acetonitrile (25 mL) and di-tert-butyldicarbonate (0.80 g, 3.67 mmol) added. The mixture was stired at ambient temperature under an atmosphere of argon for 16 hours then poured into water (100 mL), diluted with brine (50 mL) and extracted with ethyl acetae (3×50 mL). The combined organic extracts were washed with brine (100 mL), dried over sodium sulfate and concentrated in vacuo to a black viscous oil. Purification by chromatography over silica gel eluted with 35% ethyl acetate/65% hexanes gave (S)-3-benzooxazol-5-yl-2-tert-butoxycarbonylamino-propionic acid ethyl ester as a colorless solid (0.54 g, 59%).

reactant | 3-(3-amino-4-hydroxy-phenyl)-2-tert-butoxycarbonylamino-propionic acid ethyl ester | 2.74 mmol, 0.89 g | C(C)OC(C(CC1=CC(=C(C=C1)O)N)NC(=O)OC(C)(C)C)=O | C16H24N2O5
reactant | triethyl orthoformate | 3.36 mmol, 0.57 mL | C(OCC)(OCC)OCC | C7H16O3
reactant | di-tert-butyldicarbonate | 3.67 mmol, 0.80 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | 100 mL | O | H2O
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | brine | 50 mL | [Cl-].[Na+].O
product | (S)-3-benzooxazol-5-yl-2-tert-butoxycarbonylamino-propionic acid ethyl ester | 0.54 g, 59% | C(C)OC([C@H](CC=1C=CC2=C(N=CO2)C1)NC(=O)OC(C)(C)C)=O | C17H22N2O5
